US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzofuran-2-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide.
Experimental conditions analogous to Example 15, from 0.27 g (0.62 mmol) of (S)-2-{[(benzofuran-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester trifluoroacetic acid salt, was dissolved 1 mL dichloromethane, 216 μL (1.55 mmol) of triethylamine, and 0.16 g (0.68 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride were added to this mixture. The crude mixture was filtered through silica and the Boc-deprotection was conducted in 4 mL 10% trifluoroacetic acid/dichloromethane in 2 hours, followed by aqueous sodium bicarbonate quench and submitting the crude material to reductive amination reaction in dichloromethane using 0.24 g (3.1 mmol) of cyclobutanone and 0.657 g (3.1 mmol) of sodium triacetoxyborohydride. After 5 hours the reaction was quenched with aqueous sodium bicarbonate and di-tert-butyl dicarbonate. The residue from the organic layer was purified using flash chromatography (7N ammonia in methanol, 0-3% in dichloromethane), gave 49 mg off-white solid as a free base solid. LC-MSD, m/z for C29H34N2O5 [M+H]+: 491.2. 1H NMR (400 MHz, CDCl3/HCl): δ 1.7 (s, 6 H), 1.8-2.1 (m, 6 H), 2.1-2.2 (m, 1 H), 2.3-2.4 (m, 1 H), 2.5-2.7 (m, 2 H), 2.8-2.9 (m, 1 H), 3.5-3.7 (m, 1 H), 3.7-3.9 (m, 3 H), 3.9 (s, 3 H), 4.0-4.1 (m, 1 H), 4.8-5.0 (m, 2 H), 6.8 (s, 1H), 6.9 (s, 1 H), 7.0 (s, 1 H), 7.2-7.3 (m, 2H), 7.4-7.5 (m, 1 H), 7.5-7.6 (m, 1 H), 12.0-12.1 (bs, 1 H).

reactant | (S)-2-{[(benzofuran-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester trifluoroacetic acid salt | 0.62 mmol, 0.27 g | FC(C(=O)O)(F)F.C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC=1OC2=C(C1)C=CC=C2
reactant | triethylamine | 1.55 mmol, 216 μL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 0.68 mmol, 0.16 g | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 3.1 mmol, 0.657 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.1 mmol, 0.24 g | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzofuran-2-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide | 49 mg | O1C(=CC2=C1C=CC=C2)CN(C(=O)C2=CC1=C(OC(O1)(C)C)C(=C2)OC)C[C@H]2N(CCC2)C2CCC2 | C29H34N2O5
